Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest tightness
Ear pain
Palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is an ___ CAD with extensive coronary history 
including CABG and 5 stents, most recently DES of D1 in ___, 
ischemic cardiomyopathy with EF 25%, and multiple metastatic 
malignancies who presents with two days of chest pressure. 
Patient states he's had worsening exertional fatigue over 
months, but today woke up with chest pressure and ear pressure 
similar to prior episodes which required cath and stent. Chest 
pressure seemed to be worse with exertion, though patient not 
sure. Patient denies any fevers, cough, prolonged 
immobilization. Took his AM ASA 325mg and Plavix and presented 
to ED. EKG was essentially unchanged from ___. Troponin was 
0.02. Other notable labs include Cr 2.0 (baseline)  
Patient states he had developed redness in his right lower 
extremity different from his baseline venous stasis changes and 
was started on amoxicillin by his PCP 2 days ago.  
REVIEW OF SYSTEMS  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. he denies recent fevers, chills or rigors. 
he denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for chest pain, dyspnea on 
exertion, 2 pillow orthopnea, ankle edema,  
Negative for PND, palpitations, syncope or presyncope. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
___ year old male status post CABG ___ (single SVG-LAD)  
with subsequent IMI ___, recurrent IMI ___, status post LCx  
Palmaz-Schatz stent placement ___, 3.0 x33 Cypher stenting of 
___ followed by repeat stenting for instent restenosis with 
3.0x18 Cypher. ___ stenting of D1 with DES.  
Pacer/AICD in ___  
 
3. OTHER PAST MEDICAL HISTORY:  
- Prostate Cancer with stable PSA, followed by heme-onc  
- Renal cancer  
- lymphoma  
- left leg sarcoma s/p two courses of palliative radiation 
therapy  
- multiple pulmonary nodules, likely metastatic  
- Lower extremity venous stasis  
- ___ Disease  
- Gallstones  
- CRI  
- Gout  
- HTN  
- Melena: ___, EGD showed mild gastritis, colonoscopy showed 3  
sessile nonbleeding polyps in ascending colon; episode of GI 
bleed requiring 20U pRBC ___  

 
Social History:
___
Family History:
Father died at age ___ from embolism. No history of early CAD, 
sudden cardiac death. No DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM

VS: 97.8 112/66 76 18 100% RA  
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple with JVP of 10 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. ___ crescendo-decrescendo murmur heard 
best at RUSB w/ no radiation. No thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Mild bibasilar crackles 
 
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: B/l pitting edema in lower extremities to mid thigh 
level. Apparent blistering of skin on left leg. Erythematous 
area that is warm to touch with some serosanguinous drainage, 
well-demarcated along much of right lower extremity, outlined 
with pen. Sarcoma protrouding through left femur, covered.  
SKIN: as described in extremities  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

DISCHARGE PHYSICAL EXAM
VS: 98.0 90/62 75 22 94% RA  
Wt. 90.4kg  
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric.  
NECK: Supple with flat JVP  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. ___ crescendo-decrescendo murmur heard 
best at RUSB w/ radiation to b/l carotids. No thrills, lifts. No 
S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Mild bibasilar crackles 
 
ABDOMEN: Soft, NTND. No HSM or tenderness. Large mass palpable 
in RLQ. Nontender.  
EXTREMITIES: B/l pitting edema in lower extremities to mid thigh 
level. Apparent blistering of skin on left leg. Erythematous 
area that is beefy red, well-demarcated along much of right 
lower extremity with rim that is darker red/purple surrounding 
border, outlined with pen, Little change since admission, no 
drainage.  
Sarcoma protrouding through left distal femur  

 
Pertinent Results:
ADMISSION LABS:

___ 10:45AM BLOOD WBC-8.3# RBC-3.12* Hgb-10.1* Hct-31.8* 
MCV-102* MCH-32.3* MCHC-31.7 RDW-16.6* Plt ___
___ 10:45AM BLOOD Neuts-71.7* Lymphs-17.6* Monos-7.4 
Eos-2.5 Baso-0.8
___ 10:45AM BLOOD ___ PTT-31.7 ___
___ 10:45AM BLOOD Glucose-134* UreaN-46* Creat-2.0* Na-140 
K-4.4 Cl-106 HCO3-23 AnGap-15
___ 08:05PM BLOOD CK(CPK)-37*
___ 10:45AM BLOOD cTropnT-0.02*
___ 08:05PM BLOOD Calcium-9.5 Phos-3.8 Mg-2.1
___ 10:52AM BLOOD Lactate-1.8

OTHER PERTINENT LABS:

___ 07:30AM BLOOD WBC-7.4 RBC-3.01* Hgb-9.7* Hct-30.0* 
MCV-100* MCH-32.2* MCHC-32.3 RDW-16.6* Plt ___
___ 07:30AM BLOOD Glucose-109* UreaN-57* Creat-2.1* Na-137 
K-4.4 Cl-104 HCO3-22 AnGap-15
___ 08:05PM BLOOD CK-MB-3 cTropnT-0.05*
___ 07:30AM BLOOD CK-MB-2 cTropnT-0.04*
___ 04:00PM BLOOD CK-MB-3 cTropnT-0.08*
___ 04:00PM BLOOD VitB12-290 Folate-GREATER THAN ASSAY
___ 04:00PM BLOOD TSH-3.2

=
=
=
=
=
=
================================================================

IMAGING:

EKG ___: Sinus rhythm. Prior inferior wall myocardial 
infarction. Prior anteroseptal and lateral myocardial 
infarction. Right bundle-branch block. Left anterior fascicular 
block. Compared to the previous tracing of ___ no 
diagnostic interim change. 

Right lower extremity U/S ___: IMPRESSION: 
No evidence of deep vein thrombosis in the right lower 
extremity. 

CXR ___:
The patient is status post median sternotomy and CABG.  Left 
left-sided 
AICD/pacemaker device is noted with single lead terminating in 
the right 
ventricle.  Curvilinear calcification at the cardiac apex is 
again noted, and unchanged compatible with prior left 
ventricular infarct with aneurysm formation.  Low lung volumes 
are present, with the heart size appearing mildly enlarged.  The 
aorta remains calcified.  The mediastinal contours are stable.  
Innumerable bilateral diffuse nodules are seen in both lungs 
compatible with metastatic disease.  No focal consolidation, 
pleural effusion or pneumothorax is identified.  No definite 
acute osseous abnormalities are seen. 
IMPRESSION: 
Innumerable pulmonary metastases.  No radiographic evidence for 
pneumonia. 

TTE ___:
The left atrium is markedly elongated. There is mild symmetric 
left ventricular hypertrophy with normal cavity size. There is 
moderate to severe regional left ventricular systolic 
dysfunction with severe hypo/akinesis of the distal ___ of 
the ventricle. The apex is aneurysmal and mildly dyskinetic. 
Basal segments contract best (LVEF = 25 %). The estimated 
cardiac index is normal (>=2.5L/min/m2). No masses or thrombi 
are seen in the left ventricle. The right ventricular cavity is 
mildly dilated with depressed free wall contractility. The 
ascending aorta is mildly dilated. The aortic valve leaflets are 
moderately thickened. There is mild aortic valve stenosis. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. There is at least 
mild pulmonary artery systolic hypertension. Significant 
pulmonic regurgitation is seen. The end-diastolic pulmonic 
regurgitation velocity is increased suggesting pulmonary artery 
diastolic hypertension. There is no pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
extensive regional systolic dysfunction c/w multivessel CAD or 
other diffuse process. At least mild pulmonary artery 
hypertension. Mild aortic valve stenosis. Moderate tricuspid 
regurgitation. Dilated ascending aorta. 
Compared with the report of the prior study (images unavailable 
for review) of ___, left ventricular systolic function is 
similar. The tricuspid regurgitation, mitral regurgitation, 
aortic stenosis and pulmonary artery hypertension are new but 
may represent improved image quality on the current study.  

Cardiac Stress Perfusion Imaging:
    ___ ___  ___  ___ 
 
Radiology Report CARDIAC PERFUSION PHARM Study Date of ___  

 
  
___.     ___  
CARDIAC PERFUSION PHARM   Clip # ___   
Reason: ___ YO MAN W/ HX OF CAD W/ MULTIPLE MIS PRESENTS W/ 
TIGHTNESS TYPICAL OF PREVIOUS MIS 
 

 
 
Final Report 
  
RADIOPHARMACEUTICAL DATA: 
   11.0 mCi Tc-99m Sestamibi Rest ___ 
   30.8 mCi Tc-99m Sestamibi Stress ___ 
HISTORY: Evaluation of chest pain and dyspnea in an ___ year old 
man with history 
of hypertension, hyperlipidemia, ischemic cardiomyopathy (EF  
 25%), systolic 
CHF and CKD who is status post MIs in ___ and ___, CABG in 
___, multiple PCIS 
and ICD/pacemaker in ___. 
  
SUMMARY FROM THE EXERCISE LAB:  
  
For pharmacologic coronary vasodilatation dipyridamole was 
infused intravenously 
for 4 minutes at a dose of 0.142 milligram/kilogram/min.  
  
IMAGING METHOD:  
  
Resting perfusion images were obtained with Tc-99m sestamibi. 
Tracer was 
injected approximately 45 minutes prior to obtaining the resting 
images.  
  
Following resting images and following intravenous infusion,  
approximately 
three times the resting dose of Tc-99m sestamibi was 
administered intravenously. 
Stress images were obtained approximately 30 minutes following 
tracer 
injection.  
  
The patient experienced atypical anginal symptoms during the 
infusion. There 
were no significant ST segment changes from baseline. 
  
Imaging protocol: Gated SPECT.  
  
This study was interpreted using the 17-segment myocardial 
perfusion model.  
  
INTERPRETATION:  
  
The image quality is adequate. 
  
Left ventricular cavity size is enlarged. With an EDV of 326mL 
with stress. 
  
Rest and stress perfusion images reveal severe fixed defects in 
the inferior 
wall, mid and distal anteroseptal wall, inferoseptal wall, mid 
and distal 
anterior wall, distal lateral wall and in the apex. 
  
Gated images reveal an extensive akinetic apical region with the 
only 
functioning portion at the base of the heart. 
  
The calculated left ventricular ejection fraction is 21% with 
stress. 
  
Compared with prior planar images obtained in the study of 
___ 
there has been considerable increase in left ventricle volume. 
  
IMPRESSION:  
  
1.  Severe fixed perfusion defects in the inferior wall, mid and 
distal 
anteroseptal wall, inferoseptal wall, mid and distal anterior 
wall, distal 
lateral wall and in the apex. 
  
2.  Decreased ejection fraction with an extensive akinetic 
apical region with 
the only functioning portion at the base of the heart. 
  
3.  Enlarged left ventricular cavity, worse compared to the 
prior study from 
___. 

EKG ___
Atrial fibrillation with rapid ventricular response. Possible 
prior inferior 
myocardial infarction, age undetermined. Left axis deviation. 
Right 
bundle-branch block. Possible prior anteroseptal myocardial 
infarction, age undetermined. Compared to the previous tracing 
of ___ the findings are similar. 

 
Brief Hospital Course:
___ yo male w/ extensive coronary history as well as multiple 
metastatic malignancies and ischemic cardiomyopathy (EF = 25%) 
presents with one day of chest tightness and ear pain similar to 
prior MI events. EKG unchanged and troponin 0.02. MIBI stress 
test demonstrating multiple fixed lesions, but no reversible 
lesions to be intervened upon.  
.  
# CAD: Pain consistent with prior ACS events; however EKG 
unchanged and troponin not dramatically elevated, especially in 
patient with CKD. Repeat troponin only mildly elevated to 
0.05->0.04. Nuclear perfusion stress test showed Severe fixed 
perfusion defects in the inferior wall, mid and distal 
anteroseptal wall, inferoseptal wall, mid and distal anterior 
wall, distal lateral wall and in the apex. Only functioning 
portion at the base of the heart. No reversible defects. 
Enlarged LV with EF = 20%, likely unchanged from TTE from ___ 
showing EF = 25%.  
Severe fixed defects, but no obvious intervenable lesions by 
stress. Enlarged LV likely unchanged from recent ECHO. Continued 
medical management with ASA 325mg, Plavix 75mg, quinapril 2.5 mg 
(decreased from 5mg due to low BPs in-house), lipitor 40mg.  
   
#Paroxysmal a-fib: Patient in a-fib throughout majority of 
admission, with occasaional spontaneous reversions to sinus 
rhythm. At rest, HR remained in mid ___ however, with minimal 
exertion, HR would increase to 100-130, and patient became 
symptomatic, stating he felt "wiped out" every time he exerted 
himself. His beta-blocking regimen on admission was carvedilol 
6.25mg BID. The decision was made to switch to metoprolol 50mg 
XL for better rate control. After making this change, patient's 
HR remained below 100 with exertion and he symptomatically 
improved: stating he was able to ambulate without feeling 
palpitations or "wiped out". He was scheduled for EP f/u for 
possible a-fib ablation in the future. Patient not 
anticoagulated beyond ASA and Plavix due to history of 
significant GI bleed.

# Chronic fatigue: likely multifactorial, ___ worsening systolic 
CHF, anemia, and multiple malignancies. patient actually states 
that fatigue seemed to improve since hospitalization. Possibly 
___ to improved rate control of his paroxysmal a-fib. . 
Outpatient heme/onc attributes his chronic anemia to likely MDS 
and anemia of chronic disease. B12 levels were checked during 
this admission and found to be on the low side of normal. 
Supplementation not started in house, but patient may benefit 
from this in the future with regards to his anemia. 

# Systolic congestive heart failure: Patient somewhat volume 
overloaded on initial presentation. No evidence of pulmonary 
edema. Was started on furosemide 10mg daily for gentle diuresis. 
JVP flat upon discharge and patient appeared relatively 
euvolemic. Was discharged on home dose of Torsemide 5 mg and 
spironolactone. 

# Cough: productive of white sputum. No leukocytosis and lungs 
sounded clear. No fevers/chills or any other evidence of PNA. 
Unlikely PNA. Would be difficult to interpret CXR in setting of 
multiple pulmonary nodules. ___ be bronchitis. Sputum cx sent 
and will require f/u with his PCP. Patient appears well, no ABx 
on discharge.  

# Right lower extremity erythema - RLE U/S showed no DVT. Right 
lower extremity with erythematous, edematous skin with very well 
demarcated, darker red borders. Atypical appearance for 
cellulitis and no response to vancomycin. Vanco was discontinued 
after one day of therapy as it was thought that this lesion did 
no represent a bacterial cellulitis. ___ represent chronic 
fungal infection related to chronic venous stasis. Patient 
discharged on clotrimazole cream and scheduled for dermatology 
follow-up.  

# CKD - Cr at baseline of 2.0-2.1 throughout hospitalization  
 
# ___ Disease  
-continued home sinemet  

TRANSITION OF CARE
- follow up sputum culture
- consider starting B12 replacement
- follow up w/ dermatology regarding ___ dermatitis
- Beta blockade switched from carvedilol 6.25mg BID to 
metoprolol 50mg XL for a-fib rate control. Will defer to 
outpatient cardiologist, Dr. ___ with regards to 
appropriateness of patient's cardiac medication regimen. Pt. 
scheduled for EP f/u for possible a-fib ablation in the future.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
2. Lactulose 15 mL PO Q8H:PRN constipation 
3. Quinapril 5 mg PO DAILY 
4. Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID 
5. Allopurinol ___ mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO BID 
7. Carvedilol 3.125 mg PO BID 
8. Carbidopa-Levodopa (___) 1 TAB PO TID 
9. Atorvastatin 40 mg PO DAILY 
10. Furosemide 10 mg PO DAILY 
11. Spironolactone 12.5 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Nitroglycerin SL 0.3 mg SL PRN chest pain 
14. ubidecarenone-omega 3-vit E *NF* ___ mg-mg-unit Oral 
daily 
15. Clopidogrel 75 mg PO DAILY 
16. Aspirin 325 mg PO DAILY 
17. imiquimod *NF* 5 % Topical daily 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
5. Clopidogrel 75 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO BID 
7. imiquimod *NF* 5 % Topical daily 
8. Lactulose 15 mL PO Q8H:PRN constipation 
9. Multivitamins 1 TAB PO DAILY 
10. Nitroglycerin SL 0.3 mg SL PRN chest pain 
11. Quinapril 2.5 mg PO DAILY 
RX *quinapril 5 mg 0.5 (One half) tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*3
12. Spironolactone 12.5 mg PO DAILY 
13. Clotrimazole Cream 1 Appl TP BID 
RX *clotrimazole 1 % apply to affected area daily Disp #*1 
Bottle Refills:*1
14. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
15. Torsemide 5 mg PO DAILY 
16. ubidecarenone-omega 3-vit E *NF* ___ mg-mg-unit Oral 
daily 
17. Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 (One) capsule(s) by mouth three times a 
day Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Unstable angina
Acute on Chronic Systolic congestive heart failure
Tinea Corporis
atrial fibrillation with rapid ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you. You were admitted to the 
hospital for chest pain concerning for angina. Your tests did 
not show any new findings concerning for a heart attack. You did 
not have any recurrent episodes of chest tightness or ear pain. 
You were found to be in atrial fibrillation and felt 
palpitations. We gave you some medication to control your heart 
rate, you improved. We switched your beta blocker medication 
from carvedilol (coreg) to metoprolol XL 50mg daily. With this 
switch, you were able to walk around without developing an 
inappropriately fast heart rate and your symptom of feeling 
wiped out improved. You will be scheduled to follow up with an 
electrophysiologist to discuss options for treating your atrial 
fibrillation.
The redness on your right leg is likely caused by a fungal 
infection and we started you on an antifungal medication called 
clotrimazole. You should follow-up with your dermatologist about 
this.
 It is very important that you continue to weigh yourself every 
morning, call Dr. ___ weight goes up more than 3 lbs. 

 
Followup Instructions:
___